US07612212B2
Preparation of 4-cyclopropyl-2-fluoroaniline:
2-{2-Amino-2-[4-(2-trimethylsilanyloxy-ethoxy)-phenyl]-acetylamino}-N-(4-cyclopropyl-2-fluorophenyl)-3-phenyl-butyramide (680 mg, 1.2 mmol) and pyridine (3 mL) were dissolved in dichloromethane (60 mL) at −78° C. To this mixture was added a solution of triphosgene (296 mg, 1 mmol) in dichloromethane (15 mL) dropwise. The mixture was allowed to slowly warm to room temperature and stirred overnight at room temperature. The mixture was cooled in an ice bath and 3 M HCl (60 mL) was added slowly and stirring was continued at 0° C. for 30 minutes. The organic layer was separated and dried over anhydrous sodium sulfate. Concentration gave 150 mg of a oily solid that was chromatographed over silica gel (65% v/v ethyl acetate in hexanes) to give N-(4-cyclopropyl-2-fluoro-phenyl)-2-{4-[4-(2-hydroxy-ethoxy)-phenyl]-2,5-dioxo-imidazolidin-1yl}-3-phenyl-butyramide as a yellow solid (70 mg, 0.13 mmol, 13%).

reactant | 2-{2-Amino-2-[4-(2-trimethylsilanyloxy-ethoxy)-phenyl]-acetylamino}-N-(4-cyclopropyl-2-fluorophenyl)-3-phenyl-butyramide | 1.2 mmol, 680 mg | NC(C(=O)NC(C(=O)NC1=C(C=C(C=C1)C1CC1)F)C(C)C1=CC=CC=C1)C1=CC=C(C=C1)OCCO[Si](C)(C)C | C32H40FN3O4Si
reactant | pyridine | 3 mL | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 1 mmol, 296 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | HCl | 3 M, 60 mL | Cl | ClH
solvent | dichloromethane | 60 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 4-cyclopropyl-2-fluoroaniline | 150 mg | C1(CC1)C1=CC(=C(N)C=C1)F | C9H10FN
